US08217069B2
5-Carboxy-3-[2-chloro-4-methoxy-5-(1-methyl-1-phenylethylsulfonyl)phenyl]-7-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
To a solution of 3-[2-chloro-4-methoxy-5-(1-methyl-1-phenylethylsulfonyl)-phenyl]-5-hydroxymethyl-7-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (40 mg) in N,N-dimethylformamide (2 mL) was added manganese(IV) oxide (0.4 g), and the mixture was stirred at room temperature for 8 hours. The reaction mixture was diluted with ethyl acetate, and the insoluble material was removed by filtration. The filtrate was washed with water and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. To the residue were added tert-butanol (1.5 mL), water (0.15 mL), sodium dihydrogen phosphate dihydrate (10 mg), 2-methyl-2-butene (18 mg) and a solution of sodium chlorite (20 mg) in water (0.3 mL) successively, and the mixture was stirred at room temperature for 3 hours. To the reaction mixture were added 1 mol/L hydrochloric acid and water, and the precipitated crystals were collected by filtration. The collected crystals were washed with water, and dried under reduced pressure to give the title compound (19 mg).

reactant | 3-[2-chloro-4-methoxy-5-(1-methyl-1-phenylethylsulfonyl)-phenyl]-5-hydroxymethyl-7-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 40 mg | ClC1=C(C=C(C(=C1)OC)S(=O)(=O)C(C)(C1=CC=CC=C1)C)N1C(NC=2C1=NC(=CC2OC)CO)=O | C24H24ClN3O6S
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | manganese(IV) oxide | 0.4 g | [O-2].[Mn+4].[O-2]
product | 5-Carboxy-3-[2-chloro-4-methoxy-5-(1-methyl-1-phenylethylsulfonyl)phenyl]-7-methoxy-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 19 mg | C(=O)(O)C1=CC(=C2C(=N1)N(C(N2)=O)C2=C(C=C(C(=C2)S(=O)(=O)C(C)(C2=CC=CC=C2)C)OC)Cl)OC | C24H22ClN3O7S
